US05574178
Methanesulfonic acid (140 ml) was added dropwise, under ice cooling, to a solution consisting of 4-tert-butyl-5-hydroxybenzofuran [J. Org. Chem., 53, 4135 (1988); 35 g, 0.18 mol], tert-butyl alcohol (70 g, 0.84 mol) and chloroform (50 ml). After stirring at 0° C. for 20 min, the mixture was poured into ice water. Subsequently, the mixture was neutralized with an aqueous solution of 1N sodium hydroxide and subjected to extraction with ethyl acetate. The extracted layer was washed with a saturated aqueous solution of sodium hydrogen carbonate, dried over anhydrous magnesium sulfate, and concentrated. The concentrate was purified by silica gel chromatography (n-hexane) to afford 2,4,6-tri-tert-butyl-5-hydroxybenzofuran [10.87 g (yield, 20%)]. Also obtained, though in low yield, was 4,6-di-tert-butyl-5-hydroxybenzofuran.

reactant | Methanesulfonic acid | 140 ml | CS(=O)(=O)O | CH4O3S
reactant | 4-tert-butyl-5-hydroxybenzofuran | 0.18 mol, 35 g | C(C)(C)(C)C1=C(C=CC2=C1C=CO2)O | C12H14O2
reactant | tert-butyl alcohol | 0.84 mol, 70 g | C(C)(C)(C)O | C4H10O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,4,6-tri-tert-butyl-5-hydroxybenzofuran | 10.87 g, 20% | C(C)(C)(C)C=1OC2=C(C1)C(=C(C(=C2)C(C)(C)C)O)C(C)(C)C | C20H30O2
